US04871737
3-(Cyclopentylmethylamino)-5-methyl1H-pyrazole-4-carboxylic acid, ethyl ester hydrochloride [1:1].
A stirred slurry of 8.4 g (0.049 mole) of 4-cyclopentyl-4-methyl-3-thiosemicarbazide in 50 mL of absolute ethanol was treated with 8.1 g (0.049 mole) of ethyl 2-chloroacetoacetate, stirred at ambient temperature for 18 hr, treated with 25 mL of 2N ethanolic hydrogen chloride and heated at reflux for 2 hr. The hot solution was filtered to remove amorphous sulfur and concentrated to a red oil which gave a crude solid product when triturated with acetone. After four recrystallizations, methyl ethyl ketone/2-propyl ether (twice), acetonitrile/acetone and finally from acetonitrile, there was obtained 3.2 g of crystalline product, mp 144°-146° C., as the hydrochloride salt.

reactant | 4-cyclopentyl-4-methyl-3-thiosemicarbazide | 0.049 mole, 8.4 g | C1(CCCC1)N(C(NN)=S)C | C7H15N3S
reactant | ethyl 2-chloroacetoacetate | 0.049 mole, 8.1 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrogen chloride | 2N, 25 mL | Cl | ClH
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | 3-(Cyclopentylmethylamino)-5-methyl1H-pyrazole-4-carboxylic acid, ethyl ester hydrochloride | 3.2 g | Cl.C1(CCCC1)CNC1=NNC(=C1C(=O)OCC)C | InChI=1S/C13H21N3O2.ClH/c1-3-18-13(17)11-9(2)15-16-12(11)14-8-10-6-4-5-7-10;/h10H,3-8H2,1-2H3,(H2,14,15,16);1H
